US08937071B2
To a mixture of N-(6-ethoxy-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (40 mg, 0.067 mmol) in DCM (10 mL) was added TFA (0.701 mL, 9.10 mmol). The mixture was stirred at 25° C. for 2 h. Then the reaction residue was added to NaOH (2.5 m, 3 mL) and concentrated. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, basic condition) to yield a white solid of N-(6-ethoxy-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide, hydrochloride (15.66 mg, 0.030 mmol, 49.8% yield): 1H NMR (400 MHz, CD3OD) δ 8.50 (s, 1H), 8.29 (d, J=2.0 Hz, 1H), 7.49-7.41 (m, 1H), 7.40-7.31 (m, 3H), 7.26 (d, J=2.0 Hz, 1H), 4.47 (m, 2H), 4.15 (m, 2H), 3.82 (s, 2H), 1.49 (t, J=7.0 Hz, 3H), 1.40 (t, J=7.0 Hz, 3H); ES-LCMS m/z 480.2 (M+H).

reactant | N-(6-ethoxy-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.067 mmol, 40 mg | C(C)OC1=C(C=C(C=N1)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C31H29F4N3O5
reactant | TFA | 9.10 mmol, 0.701 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 3 mL | [OH-].[Na+]
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(6-ethoxy-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide, hydrochloride | 0.030 mmol, 15.66 mg, 49.8% yield | Cl.C(C)OC1=C(C=C(C=N1)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O)C(F)(F)F | InChI=1S/C23H21F4N3O4.ClH/c1-3-33-19-8-15(11-28-21(19)32)13-5-6-14(18(24)7-13)9-20(31)30-16-10-17(23(25,26)27)22(29-12-16)34-4-2;/h5-8,10-12H,3-4,9H2,1-2H3,(H,28,32)(H,30,31);1H
